US08084620B2
A mixture of 3-bromo-2-methylaniline (4.00 g, 21.5 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (6.55 g, 25.8 mmol) and potassium acetate (4.22 g, 43.0 mmol) in 1,4-dioxane (44.8 mL) and DMSO (9.0 mL) was purged with nitrogen for 10 min. [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium DCM adduct (0.527 g, 0.645 mmol) was added, the mixture was purged for another 5 min then was heated at reflux for 2 h. The mixture was cooled and filtered through Celite. The solids were washed with EtOAc, and the combined filtrates were washed with water and brine, and dried and concentrated. The residue was purified by column chromatography (eluting with hexane-EtOAc using a gradient from 95:5 to 85:15) to provide 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline as a light yellow waxy solid (4.4 g, 88%), used without further purification. 1H NMR (400 MHz, chloroform-d) δ 7.21 (1H, dd, J=7.3, 1.0 Hz), 7.02 (1H, t, J=7.7 Hz), 6.75 (1H, dd, J=7.8, 1.0 Hz), 3.54 (2H, br. s.), 2.37 (3H, s), 1.34 (12H, s). Mass spectrum m/z 233.3, 234.3, 235.3 (M+H)+.

reactant | 3-bromo-2-methylaniline | 21.5 mmol, 4.00 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 25.8 mmol, 6.55 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 43.0 mmol, 4.22 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 44.8 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 9.0 mL | CS(=O)C | C2H6OS
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium DCM | 0.645 mmol, 0.527 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].C(Cl)Cl
product | 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C13H20BNO2
